US08476442B2
Procedure for the preparation of 5-tert-butyl-3,3-dimethyl-6-nitrobenzofuran-2(3H)-one (19)
Difluorozinc (6.093 g, 58.92 mmol) was added to a round bottomed flask, which was flushed with nitrogen. Pd(tBu3P)2 (2 g, 3.835 mmol) was then added under nitrogen stream. 2-Bromo-4-tert-butyl-5-nitro-phenol (16.15 g, 58.92 mmol) dissolved in DMF (80.75 mL) was then added to the flask. The reaction mixture was an orange suspension. (1-Methoxy-2-methyl-prop-1-enoxy)trimethylsilane (21.61 g, 25.13 mL, 117.8 mmol) was added to the mixture and the resulting mixture was heated to 80° C. and stirred for 16 h. When complete, the reaction mixture was cooled to ambient temperature and filtered through Celite®. The filter cake was washed with MTBE (536.0 mL) and water (893.3 mL) was added to the filtrate. The mixture was stirred for 15 min and settled for another 15 min. The layers were separated and 0.5M HCl (500 mL, 250.0 mmol) was added to the organic phase. The layers were separated and the organic layer was washed with water (500 mL). The layers were separated and the organic layer was washed with NaCl (500 mL; 8 wt %). The organic layer was separated and the solvent removed in vacuo. The crude product was obtained as a brown crystalline solid and was then purified through a silica plug, using hexane:MTBE 20:1-10:1 as an eluent. The fractions containing product were combined and the solvent removed in vacuo to give the pure product as a white crystalline solid. 1H-NMR (400 MHZ, DMSO-d6) δ 7.80 (s, 1H); 7.62 (s, 1H); 1.49 (s, 6H); 1.34 (s, 9H)

reactant | 2-Bromo-4-tert-butyl-5-nitro-phenol | 58.92 mmol, 16.15 g | BrC1=C(C=C(C(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H12BrNO3
reactant | (1-Methoxy-2-methyl-prop-1-enoxy)trimethylsilane | 117.8 mmol, 25.13 mL, 21.61 g | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | HCl | 250.0 mmol, 0.5M, 500 mL | Cl | ClH
solvent | DMF | 80.75 mL | CN(C)C=O | C3H7NO
catalyst | Difluorozinc | 58.92 mmol, 6.093 g | F[Zn]F
product | 5-tert-butyl-3,3-dimethyl-6-nitrobenzofuran-2(3H)-one | C(C)(C)(C)C=1C(=CC2=C(C(C(O2)=O)(C)C)C1)[N+](=O)[O-] | C14H17NO4
